US08492549B2
(S*)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-(4-trifluoromethylphenyl)piperidine
(R)-2,3-Dihydrobenzo[1,4]dioxin-2-yl-[(S*)-3-(4-trifluoromethylphenyl)piperidin-1-yl]methanone (13 mg, 0.033 mmol) was treated with BH3 THF according to the above general procedure. Flash chromatography gave 6 mg of the title compound.

reactant | (R)-2,3-Dihydrobenzo[1,4]dioxin-2-yl-[(S*)-3-(4-trifluoromethylphenyl)piperidin-1-yl]methanone | 0.033 mmol, 13 mg | O1[C@H](COC2=C1C=CC=C2)C(=O)N2C[C@@H](CCC2)C2=CC=C(C=C2)C(F)(F)F | C21H20F3NO3
solvent | THF | C1CCOC1 | C4H8O
product | (S*)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-(4-trifluoromethylphenyl)piperidine | 6 mg | O1[C@H](COC2=C1C=CC=C2)CN2C[C@@H](CCC2)C2=CC=C(C=C2)C(F)(F)F | C21H22F3NO2
